US07232821B2
6-{2-[5-Methyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}pyrazine-2-carboxylic acid ethyl ester
Prepared by general procedure C(iii) but using 2-[2-(benzyloxy)-5-methylphenyl]cyclopentene-1-boronic acid instead of 2-(2-benzyloxy-5-chlorophenyl)cyclopentene-1-boronic acid and 6-chloropyrazine-2-carboxylic acid ethyl ester instead of 2-chloropyrimidine-4-carboxylic acid methyl ester.

reactant | 2-[2-(benzyloxy)-5-methylphenyl]cyclopentene-1-boronic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)C1=C(CCC1)B(O)O | C19H21BO3
reactant | 6-chloropyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CN=C1)Cl | C7H7ClN2O2
product | 6-{2-[5-Methyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}pyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CN=C1)C1=C(CCC1)C1=C(C=CC(=C1)C)OCC1=CC=CC=C1 | C26H26N2O3
